r_ladder_circuit - fault test
Vin in 0 DC 24
R1 in n1 9.812655
R2 n1 0 20.179922
R3 n1 n2 10.069037
R4 n2 0 19.640697
R5 n2 n3 10.105075
R6 n3 0 315.779077
.op
.control
run
print v(in) v(n1) v(n2) v(n3)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i]
.endc
.end
